US04704459
In 6.5 ml of chloroform was dissolved 650 mg of methyl 6-(3-amino-1-pyrrolidinyl)-2-(2,4-difluorophenylamino)-5-fluoronicotinate, and 190 mg of acetic anhydride was added to the resulting solution, after which the resulting mixture was subjected to reaction at room temperature for 10 minutes. The solvent was then removed by distillation under reduced pressure. To the crystalline material thus obtained was added 2 ml of diethyl ether, after which crystals were collected by filtration to obtain 720 mg (yield 99.4%) of methyl 6-(3-acetylamino-1-pyrrolidinyl)-2-(2,4-difluorophenylamino)-5-fluoronicotinate having a melting point of 199°-200° C.

reactant | methyl 6-(3-amino-1-pyrrolidinyl)-2-(2,4-difluorophenylamino)-5-fluoronicotinate | 650 mg | NC1CN(CC1)C1=NC(=C(C(=O)OC)C=C1F)NC1=C(C=C(C=C1)F)F | C17H17F3N4O2
reactant | acetic anhydride | 190 mg | C(C)(=O)OC(C)=O | C4H6O3
reactant | diethyl ether | 2 ml | C(C)OCC | C4H10O
solvent | chloroform | 6.5 ml | C(Cl)(Cl)Cl | CHCl3
product | methyl 6-(3-acetylamino-1-pyrrolidinyl)-2-(2,4-difluorophenylamino)-5-fluoronicotinate | 720 mg, yield 99.4% | C(C)(=O)NC1CN(CC1)C1=NC(=C(C(=O)OC)C=C1F)NC1=C(C=C(C=C1)F)F | C19H19F3N4O3
